US07592358B2
24.1a. 5-bromo-2-(2-pyrrolidin-1-ylethoxy)benzaldehyde
A suspension of 6.00 g (29.85 mmol) of 5-bromo-2-hydroxybenzaldehyde, 5.84 g (3.43 mmol) of 1-(2-chloroethyl)pyrrolidine, and 12.38 g (89.54 mmol) of potassium carbonate was stirred for 2 hours at 50° C. and for 2 hours at 75° C., cooled to RT, filtered, and evaporated down in vacuo. The crude product was purified by column chromatography (silica gel, gradient EtOAc/MeOH 100:0→85:15). Yield: 5.89 g (66% of theoretical); C13H16BrNO2 (M=298.176); calc.: molpeak (M+H)+: 298/300 (Br); found: molpeak (M+H)+: 298/300 (Br); HPLC-MS: 4.82 minutes (method A).

reactant | 5-bromo-2-hydroxybenzaldehyde | 29.85 mmol, 6.00 g | BrC=1C=CC(=C(C=O)C1)O | C7H5BrO2
reactant | 1-(2-chloroethyl)pyrrolidine | 3.43 mmol, 5.84 g | ClCCN1CCCC1 | C6H12ClN
reactant | potassium carbonate | 89.54 mmol, 12.38 g | C([O-])([O-])=O.[K+].[K+]
product | 5-bromo-2-(2-pyrrolidin-1-ylethoxy)benzaldehyde | BrC=1C=CC(=C(C=O)C1)OCCN1CCCC1 | C13H16BrNO2
